US06576786B2
Preparation of 2-Ethyl-N-hydroxybutanimidoyl Chloride
N-Chlorosuccinimide (NCS) (421.2 g, 3.15 mol) was suspended in dimethylformamide (DMF) (499.4 g) and cooled to about 10° C. The oxime solution in toluene (3.15 mol) was added slowly over at least 2 h with sufficient cooling to maintain the reaction temperature between 10-25° C. (The reaction is exothermic, but heat evolution is not immediate. Initially small amounts of the oxime solution (about 5%) were added. Once heat evolution began, the remainder of the solution was added). After complete addition of the oxime, the mixture was stirred at 15-25° for at least 30 min. Purified water (1050 g) was added slowly (slight exothermic) over 15 min while maintaining the temperature at 10-30° C. The two-phase mixture was stirred for 15 min. at 15-25° C. and the layers were separated. The water layer was discarded and the organic layer washed with purified water (3×1050 g). The organic layer containing the chlorooxime was isolated and used in the next step without further purification. (The solution is lachrymator).

reactant | N-Chlorosuccinimide | 3.15 mol, 421.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | toluene | 3.15 mol | C1(=CC=CC=C1)C | C7H8
reactant | water | 1050 g | O | H2O
reactant | dimethylformamide | 499.4 g | CN(C=O)C | C3H7NO
product | 2-Ethyl-N-hydroxybutanimidoyl Chloride | C(C)C(C(=NO)Cl)CC | C6H12ClNO
